US04589910
6.1 parts of N-methoxy-N-methylamine were added to a solution of 26.8 parts of 5-(4'-isocyanatophenoxy)-benzisothiazole in 300 parts of diethyl ether at from 20° to 30° C., the mixture was stirred for 12 hours at this temperature and then evaporated down, and the residue was triturated in about 50 parts of diethyl ether, isolated and dried. 26 g (82% of theory) of 5-(4'-(N-methoxy-N-methylaminocarbonylamino)-phenoxy)-benzisothiazole of melting point 108° C. were obtained.

reactant | N-methoxy-N-methylamine | CONC | C2H7NO
reactant | 5-(4'-isocyanatophenoxy)-benzisothiazole | N(=C=O)C1=CC=C(OC=2C=CC3=C(C=NS3)C2)C=C1 | C14H8N2O2S
reactant | diethyl ether | C(C)OCC | C4H10O
product | 5-(4'-(N-methoxy-N-methylaminocarbonylamino)-phenoxy)-benzisothiazole | 26 g, 82% | CON(C(=O)NC)C1=CC=C(OC=2C=CC3=C(C=NS3)C2)C=C1 | C16H15N3O3S
